US08614239B2
Preparation of Intermediate 6,7-Difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-1,3-dihydro-benzoimidazol-2-one (I-7a)
1,1′-Carbonyldiimidazole (4.68 g, 288 mmol) was added portion wise to a solution of 3,4-difluoro-N2-(2-fluoro-4-iodo-phenyl)-6-methoxy-benzene-1,2-diamine (I-5a: 6.3 g, 144 mmol) in DCM (60 mL) and the resulting mixture was stirred at room temperature overnight. The reaction was monitored by TLC (50% ethyl acetate in hexane). The reaction mixture was filtered, the residue was washed with DCM and dried under reduced pressure to afford 6.0 g of the product (89.5% yield).

reactant | 1,1′-Carbonyldiimidazole | 288 mmol, 4.68 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,4-difluoro-N2-(2-fluoro-4-iodo-phenyl)-6-methoxy-benzene-1,2-diamine | 144 mmol, 6.3 g | FC1=C(C(=C(C=C1F)OC)N)NC1=C(C=C(C=C1)I)F | C13H10F3IN2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 6,7-Difluoro-1-(2-fluoro-4-iodo-phenyl)-4-methoxy-1,3-dihydro-benzoimidazol-2-one | 6.0 g, 89.5% yield | FC=1C=C(C2=C(N(C(N2)=O)C2=C(C=C(C=C2)I)F)C1F)OC | C14H8F3IN2O2
